US05686486
Cyclopropyl-(3-nitrophenyl)methanone
A 250-mL three-necked flask equipped with a thermometer and an addition funnel is charged with fuming nitric acid (90%, 130 mL) and cooled to -10° C. Cyclopropyl phenyl ketone (21 mL) is added dropwise via the addition funnel over 15 min. During the addition of the ketone, the reaction temperature is maintained between -7° and -13° C. After stirring an additional 10 min at -10° C., the reaction mixture is poured onto 1 L of crashed ice, extracted with 700 mL of toluene, washed with two portions of 5% sodium hydroxide solution and one portion of brine, dried over magnesium sulfate and concentrated to give 28.14 g of yellow oil. Recrystallization from 50 mL of methanol gives 14.62 g of the title product as white crystals.

reactant | Cyclopropyl phenyl ketone | 21 mL | C1(=CC=CC=C1)C(=O)C1CC1 | C10H10O
reactant | nitric acid | 130 mL | [N+](=O)(O)[O-] | HNO3
product | Cyclopropyl-(3-nitrophenyl)methanone | 28.14 g | C1(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H9NO3
